US07750012B2
3-[4-(4-Phenoxy-phenyl)-piperazin-1-yl]-propionic acid methyl ester:
The title compound (126 mg, 40.4%) was prepared from 1-(4-Phenoxy-phenyl)-piperazine hydrochloride (165 mg, 0.9 mmol) and 3-bromo-propionic acid methyl ester (158 mg, 0.94 mmol) by the procedure described in step 3 of Example 4: MS (ESI) m/z 341 (M+H); 1H NMR (400 MHz, CD3OD) δ 2.55 (m, 2H), 2.64 (b, 4H), 2.76 (m, 2H), 3.15 (b, 4H), 3.70 (s, 2H), 6.88-7.05 (m, 7H), 7.28 (m, 2H).

reactant | 1-(4-Phenoxy-phenyl)-piperazine hydrochloride | 0.9 mmol, 165 mg | Cl.O(C1=CC=CC=C1)C1=CC=C(C=C1)N1CCNCC1
reactant | 3-bromo-propionic acid methyl ester | 0.94 mmol, 158 mg | COC(CCBr)=O | C4H7BrO2
product | 3-[4-(4-Phenoxy-phenyl)-piperazin-1-yl]-propionic acid methyl ester | 126 mg, 40.4% | COC(CCN1CCN(CC1)C1=CC=C(C=C1)OC1=CC=CC=C1)=O | C20H24N2O3
